US08426420B2
ii) piperazine-1-carboxylic acid cyclobutyl ester
A suspension of 5.90 g piperazine-1,4-dicarboxylic acid benzyl ester cyclobutyl ester and 0.25 g Pd/C (10%) in 50 ml ethyl acetate was stirred under an atmosphere of hydrogen (3 bar) for 12 h. The mixture was filtrated over a plug of Celite, washed with ethyl acetate and the combined wash solutions concentrated to give the title compound as colourless oil.

reactant | piperazine-1,4-dicarboxylic acid benzyl ester cyclobutyl ester | 5.90 g | C1(CCC1)OC(=O)N1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C17H22N2O4
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 0.25 g | [Pd] | Pd
product | piperazine-1-carboxylic acid cyclobutyl ester | C1(CCC1)OC(=O)N1CCNCC1 | C9H16N2O2
